US06750364B2
1′,3′-di-(4-fluorobenzyl)-2′,5′-dioxo-spiro{tricyclo[2.2.1.02,6]heptane-3,4′-imidazoline}-1-carboxylic acid 4-fluorobenzyl ester
A solution of 1.1 g (5.0 mmole) of 2′,5′-dioxo-spiro{tricyclo[2.2.1.02,6]heptane-3,4′-imidazoline}-1-carboxylic acid in 30 mL of N,N-dimethylformamide was treated with an excess of p-fluorobenzyl bromide (4.73 g, 25 mmole) and potassium carbonate (3.45 g, 25 mmole) at 60° C. for 36 hours. After cooling to room temperature, the mixture was diluted to 500 mL with water and extracted with 2×250 mL of ethyl acetate. The extracts were washed with water, dried over sodium sulfate and concentrated in vacuum to give 2.7 g of the title compound, again as a mixture of diastereomers.

reactant | 2′,5′-dioxo-spiro{tricyclo[2.2.1.02,6]heptane-3,4′-imidazoline}-1-carboxylic acid | 5.0 mmole, 1.1 g | O=C1NC(C2(N1)C1C3(C1CC2C3)C(=O)O)=O | C10H10N2O4
reactant | p-fluorobenzyl bromide | 25 mmole, 4.73 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 25 mmole, 3.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1′,3′-di-(4-fluorobenzyl)-2′,5′-dioxo-spiro{tricyclo[2.2.1.02,6]heptane-3,4′-imidazoline}-1-carboxylic acid 4-fluorobenzyl ester | 2.7 g | FC1=CC=C(COC(=O)C23C4C2CC(C3)C43N(C(N(C3=O)CC3=CC=C(C=C3)F)=O)CC3=CC=C(C=C3)F)C=C1 | C31H25F3N2O4
